US03975524
1-Thiomorpholino-3-piperazino-7-chloro-isoquinoline was prepared analogous to Example 3 from 1-thiomorpholino-3,7-dichloro-isoquinoline and piperazine by heating in diphenyl ether at 200°C. M.p. of its maleate: 188°-190°C (from ethanol); yield: 85% of theory.

reactant | 1-thiomorpholino-3,7-dichloro-isoquinoline | S1CCN(CC1)C1=NC(=CC2=CC=C(C=C12)Cl)Cl | C13H12Cl2N2S
reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | maleate | C(\C=C/C(=O)[O-])(=O)[O-]
reactant | ethanol | C(C)O | C2H6O
solvent | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 1-Thiomorpholino-3-piperazino-7-chloro-isoquinoline | yield: 85% | S1CCN(CC1)C1=NC(=CC2=CC=C(C=C12)Cl)N1CCNCC1 | C17H21ClN4S
